US04738975
To a solution of 3-methoxy-2-methyl-4-propoxypyridine (1.0 g) in carbon tetrachloride (70 ml), was added N-bromosuccinimide (1.0 g) and the mixture was irradiated with and infrared lamp (Toshiba, 100 V, 375 WR) for 2 hours at reflux. An insoluble substance was filtered off, and the filtrate was concentrated and purified by column chromatography on silica gel, to give 2-bromomethyl-3-methoxy-4-propoxypyridine (0.4 g) as a reddish brown oil.

reactant | 3-methoxy-2-methyl-4-propoxypyridine | 1.0 g | COC=1C(=NC=CC1OCCC)C | C10H15NO2
reactant | N-bromosuccinimide | 1.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 70 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromomethyl-3-methoxy-4-propoxypyridine | 0.4 g | BrCC1=NC=CC(=C1OC)OCCC | C10H14BrNO2
